* Top level spice file 

.option post=1
*.chkanode type=gate dv=0.5*pvdd report=active
.option parhier = local 
.option measform = 1
.option lis_new
.option post probe
.param pi = 3.141592653

*************************************** User defined functions ****************
.param V_meas(node, ref) = 'v(node) - v(ref)'

*** current profile 
.param pwl_file_quiet = str('./hspice_inc/curr_quiet_30us.txt.csv')
* .param pwl_file_AO = str('./hspice_inc/curr_profile_NNE_AO_0p35A_dt100ns_0p03ARand.txt.csv')
.param pwl_file_AO = str('./hspice_inc/curr_profile_AO_Andes_240912_0p24A_10ns.txt.csv')

*** filter for measurement
.subckt meas_filter	
+ pin_in  ref_gnd 	hf  lf 

E_meas pin_meas ref_gnd  pin_in ref_gnd	1.0

C_hf pin_meas	hf  	160.p		
R_hf hf         ref_gnd 1k

R_lf pin_meas	lf		1k
C_lf lf 		ref_gnd	160.p
.ends meas_filter

*** define die model *****
.subckt model_die_lumped_nne_tile
	+ pin_bump ref_gnd C_die=100n R_die_1=1.25m R_die_2=RESMIN R_leak=0.84	pwl_file_in = str(pwl_file_quiet) delay = 0.

	R_die_1_ 	pin_bump	2	R_die_1
	R_die_2_	2		3	R_die_2
	C_die_		3		ref_gnd	C_die 
	R_leak_		pin_bump	ref_gnd	R_leak	
	IcurrSrc	pin_bump	ref_gnd	PWL pwlfile = str(pwl_file_in) td = delay    *** add 'R' if repeat
.ends


*** cpm model 
.inc ./hspice_inc/cpm_ao_modelOnly_240419.spice

*** define pkg model *****
.inc ./hspice_inc/lsio0617_AO_IdEM.cir

*** define PCB model 
* .inc ./hspice_inc/ACM3_HF_072424_AO_disct_IdEM.cir
.inc ./hspice_inc/ACM3_HF_072424_AO_freqSwp_IdEM.cir
.inc ./hspice_inc/ACM3_HF_20240730c_ebd_PSI_AO_wAll_Caps_RLCs.cir		*** 240912 Andes sign off generated 

*** cap models 
.inc /data/home/jiangongwei/work/cap_models.hsp

*************************************** Input params **************************
.param Vdd 	= 0.7				*** need to adjust based on PMIC side port def in subckt
.param induct_eqvlnt_r = 0.001m	*** DCR of inductor of ALL phases

.param is_use_ecap_ebed = 0		*** value: 0 or 1, note: this could be baked in pkg model 
.param is_MIM 		= 0

.param die_model_sig = 0		*** value: 0 if multi grp model, 1 if single die grp model 

	*** not used when CPM is enabled 
	.para Cdie_coeff = 1.0				*** ONLY multi grp controlling, use 1.0 if no Cdie scaling, use 3.62 for NNE if MIM cap is added,  
	.para Rdie_coeff = 1.0				*** Rdie is constant 1. , rather than scaled by '1./Cdie_coeff'


.param is_ac_run = 0		*** 1 if impedance, 0 if transient 

.param tStep	= 10.p
.param tStop	= 20.u     ** 35.u

.param td_delay = 0.n
	
*************************************** End of User Input params **************

*************************************** PMIC **********************************
*** ref_gnd def.
Vref_gnd 	ref_gnd		0	0.										*** normal gnd 

.subckt PMIC_model
+ pin_out ref_gnd fdbk_node vdd_pmic = 0.75
	*** opt 1/3 ideal voltage src 
		VshortPMIC	pin_out	ref_gnd	vdd_pmic
	
	*** opt 2/3, add feedback
		* VshortPMIC_ref	pin_out_tmp	0 	vdd_pmic	*** ref contant voltage src 
		
		* VshortPMIC	pin_out	pin_tmp	vdd_pmic
		* E_fdbk	    pin_tmp	ref_gnd VCVS DELAY pin_out_tmp fdbk_node  td=1500.n			*** VCVS to model feedback using low freq signal 
			
	*** opt 3/3 voltage src waveform 
		* Vpmic_wf pin_out ref_gnd PWL pwlfile =  './hspice_inc/volt_profile_adi_240327_25us.txt.csv'
	*** 
.ends 


*** opt 1 ideal PMIC w/o remote sense feedback
.if ( 1 )
	xblk_PMIC pmic_pwr_raw ref_gnd pmic_pwr_raw PMIC_model  vdd_pmic = 'Vdd'  		
.endif 
*** opt 2 EMpower simplified IVR equivalent model 	(remember to disable PMIC bulk caps on PCB)
.if ( 0 )
	VempowerVS	pmicEMpwrNode1	ref_gnd	Vdd		*** can be switched to PMIC model 
	LempowerVS1  pmicEMpwrNode1  pmicEMpwrNode2  	'0.027778n * 0.9091'  
	RempowerVS1  pmicEMpwrNode2  pmic_pwr_raw			50.u 
.endif 

*** resistance of pmic output cap
r_pmic_l_eqv pmic_pwr_raw pmic_pwr induct_eqvlnt_r

*************************************** Socket ********************************
Rskt	bga_pcb		bga_pkg		1.u				*** can add socket model 

*** PCB 

Xblk_PCB
+ bga_pcb 
+ pmic_pwr
+ ref_gnd
+ ACM3_HF_20240730c_ebd_PSI_AO_wAll_Caps_RLCs


	* Xblk_PCB 
	* + CapPcb_C2486
	* + CapPcb_C3155
	* + CapPcb_C3164
	* + CapPcb_C1049
	* + CapPcb_C1052
	* + CapPcb_C1098
	* + CapPcb_C1100
	* + bga_pcb 
	* + pmic_pwr
	* + ref_gnd 
	* * + ACM3_HF_072424_AO_disct_IdEM
	* + ACM3_HF_072424_AO_freqSwp_IdEM

	* XcapPcb_2486  CapPcb_C2486  ref_gnd   str(mlcc_47uF_1206)
	* XcapPcb_3155  CapPcb_C3155  ref_gnd   str(mlcc_47uF_1206)
	* XcapPcb_3164  CapPcb_C3164  ref_gnd   str(mlcc_47uF_1206)

	* XcapPcb_1049  CapPcb_C1049  ref_gnd   str(mlcc_10uF_0402)
	* XcapPcb_1052  CapPcb_C1052  ref_gnd   str(mlcc_0p1uF_0402)
	* XcapPcb_1098  CapPcb_C1098  ref_gnd   str(mlcc_0p1uF_0402)
	* XcapPcb_1100  CapPcb_C1100  ref_gnd   str(mlcc_1uF_0402)

*** pkg 
Xblk_pkg
+ pkg_bump
+ bga_pkg
+ ref_gnd
+ lsio0617_AO_IdEM

*** Die 
*** approach 1: multi grp modeling or CPM 
.if (die_model_sig != 1 )
Xblk_die 
+ pkg_bump
+ ref_gnd
+ adsPowerModel_AO
.endif 

*** current profile 
IcurrSrc_AO	pkg_bump	ref_gnd	PWL  pwlfile = str(pwl_file_AO)  R * td= 0.   

* .if (is_MIM == 1)
	* C_RSI_MIM pkg_bump	ref_gnd	 ????n

* .endif 

*************************************** Analysis I: AC simulation *************
.if ( is_ac_run == 1 )
	.if ( 1 )
		*** NOTE: DO not include port def if tran analysis later
		P1 pkg_bump	ref_gnd	port=1	z0 = 0.1

		
		.lin 	sparcalc=1 	filename=impedance_plot	noisecalc=0 	gdcalc=0	format=touchstone 	dataformat=MA 
		**.probe  ac s11(db) s11(p) s21(db) s21(p) 
		.probe ac zin(1)(m) zin(1)(p) 
		
		.ac 	dec 50 1. 1.G
			
	.endif 

.endif 

*************************************** Analysis II: Transient simulation *****
.if ( is_ac_run != 1 )
	.tran tStep tSTOP 

	.probe tran v(pkg_bump) v(bga_pkg)
	.probe tran v(pkg_bump_hf)  v(pkg_bump_lf)
	.probe tran v(pmic_pwr)
	
	.probe x(Xblk_pkg.a_1) x(Xblk_pkg.a_2)
	.probe x(xblk_PMIC.pin_out)

.endif 
	
	
	